US09056859B2
A mixture of compound 5-bromo-2-fluorobenzonitrile (2.5 g, 12.5 mmol), allyl-tributyl-stannane (4.97 g, 12.5 mmol), LiCl (1.6 g, 37.5 mmol) and Pd(PPh3)4 (0.2 g) in anhydrous toluene was refluxed under N2 overnight. Distilled the solution under reduce pressure and the residue was purified with silica gel cloumn chromatography to give the product 2-fluoro-5-(prop-2-en-1-yl)benzonitrile.

reactant | 5-bromo-2-fluorobenzonitrile | 12.5 mmol, 2.5 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | allyl-tributyl-stannane | 12.5 mmol, 4.97 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 37.5 mmol, 1.6 g | [Li+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-5-(prop-2-en-1-yl)benzonitrile | FC1=C(C#N)C=C(C=C1)CC=C | C10H8FN
